* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.033859298820144317
Fd1_1 0 s1 V1 1.6929649410072158
Gr1_1_1 0 s1 x1_a1 0 -23231848966646.73
Gr2_1_1 0 s1 x2_a1 0 1185436806115.1406
Gr3_1_1 0 s1 x3_a1 0 -1071560979011.143
Gr4_1_1 0 s1 x4_a1 0 308223803041.17
Gr5_1_1 0 s1 x5_a1 0 -249152656395.0785
Gr6_1_1 0 s1 x6_a1 0 21466817713.746357
Gr7_1_1 0 s1 x7_a1 0 -3356998108.1955442
Gr8_1_1 0 s1 x8_a1 0 -14812303283.720345
Gr9_1_1 0 s1 x9_a1 0 14430598304.153444
Gr10_1_1 0 s1 x10_a1 0 -6941897982.465588
Gr11_re_1_1 0 s1 x11_re_a1 0 -1145881892.3663328
Gr11_im_1_1 0 s1 x11_im_a1 0 775925101.9054489
Gr12_re_1_1 0 s1 x12_re_a1 0 -154956558.10096812
Gr12_im_1_1 0 s1 x12_im_a1 0 249563016.5720199
Gr13_re_1_1 0 s1 x13_re_a1 0 251927971.97561428
Gr13_im_1_1 0 s1 x13_im_a1 0 -204500352.05996865
Gr14_re_1_1 0 s1 x14_re_a1 0 -255561.6055492126
Gr14_im_1_1 0 s1 x14_im_a1 0 236043.68717371934
Gr15_re_1_1 0 s1 x15_re_a1 0 631540290.2430286
Gr15_im_1_1 0 s1 x15_im_a1 0 431414596.90181905
Gr16_re_1_1 0 s1 x16_re_a1 0 1480306599.6763396
Gr16_im_1_1 0 s1 x16_im_a1 0 2368026030.690597
Gr17_re_1_1 0 s1 x17_re_a1 0 412481629.3487819
Gr17_im_1_1 0 s1 x17_im_a1 0 76960780.74682046
Gr18_1_1 0 s1 x18_a1 0 -39077864.11221275
Gr19_1_1 0 s1 x19_a1 0 4186241.7598734796
Gd1_2 0 s1 p2 0 2.1714780056113416
Fd1_2 0 s1 V2 108.57390028056709
Gr1_1_2 0 s1 x1_a2 0 -1572006272070203.8
Gr2_1_2 0 s1 x2_a2 0 88266906368096.92
Gr3_1_2 0 s1 x3_a2 0 -80811381341602.45
Gr4_1_2 0 s1 x4_a2 0 28185778680675.945
Gr5_1_2 0 s1 x5_a2 0 -24096625342174.547
Gr6_1_2 0 s1 x6_a2 0 5405462359367.534
Gr7_1_2 0 s1 x7_a2 0 -3822702380797.725
Gr8_1_2 0 s1 x8_a2 0 480594262580.63763
Gr9_1_2 0 s1 x9_a2 0 -76789791355.72955
Gr10_1_2 0 s1 x10_a2 0 -205735689762.2292
Gr11_re_1_2 0 s1 x11_re_a2 0 -60607094919.45282
Gr11_im_1_2 0 s1 x11_im_a2 0 -52907546889.175095
Gr12_re_1_2 0 s1 x12_re_a2 0 -8025257314.992374
Gr12_im_1_2 0 s1 x12_im_a2 0 -8171293114.678682
Gr13_re_1_2 0 s1 x13_re_a2 0 4712959903.684608
Gr13_im_1_2 0 s1 x13_im_a2 0 11794039363.04446
Gr14_re_1_2 0 s1 x14_re_a2 0 -2644887.1326532885
Gr14_im_1_2 0 s1 x14_im_a2 0 -11422719.2593085
Gr15_re_1_2 0 s1 x15_re_a2 0 -13607595919.826805
Gr15_im_1_2 0 s1 x15_im_a2 0 49004974770.52588
Gr16_re_1_2 0 s1 x16_re_a2 0 171261482551.866
Gr16_im_1_2 0 s1 x16_im_a2 0 745548838669.71
Gr17_re_1_2 0 s1 x17_re_a2 0 -23367947758.5442
Gr17_im_1_2 0 s1 x17_im_a2 0 -1616706192.125098
Gr18_1_2 0 s1 x18_a2 0 1927780995.473537
Gr19_1_2 0 s1 x19_a2 0 -210418701.18167886
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.1483165803772514e-14
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 4.557128896218035e-13
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 5.290028794480444e-13
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 1.431181578596774e-12
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 1.6633298406477113e-12
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 3.84290800946998e-12
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 4.772029383514487e-12
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 9.972170528675195e-12
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 1.3979375802858421e-11
Cx10_a1 x10_a1 0 1.0
Gx10_a1 0 x10_a1 p1 0 0.07071067811865475
Fx10_a1 0 x10_a1 V1 3.5355339059327378
Rp10_a1 0 x10_a1 3.016349128406546e-11
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 1.3199683267104005e-10
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 12947495529.597708
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -12947495529.597708
Rp11_im_im_a1 0 x11_im_a1 1.3199683267104005e-10
Cx12_re_a1 x12_re_a1 0 1.0
Gx12_re_a1 0 x12_re_a1 p1 0 0.1414213562373095
Fx12_re_a1 0 x12_re_a1 V1 7.0710678118654755
Rp12_re_re_a1 0 x12_re_a1 6.600543039354125e-10
Gp12_re_im_a1 0 x12_re_a1 x12_im_a1 0 13673901039.971972
Cx12_im_a1 x12_im_a1 0 1.0
Gp12_im_re_a1 0 x12_im_a1 x12_re_a1 0 -13673901039.971972
Rp12_im_im_a1 0 x12_im_a1 6.600543039354125e-10
Cx13_re_a1 x13_re_a1 0 1.0
Gx13_re_a1 0 x13_re_a1 p1 0 0.1414213562373095
Fx13_re_a1 0 x13_re_a1 V1 7.0710678118654755
Rp13_re_re_a1 0 x13_re_a1 6.086871916401739e-10
Gp13_re_im_a1 0 x13_re_a1 x13_im_a1 0 13287012586.834599
Cx13_im_a1 x13_im_a1 0 1.0
Gp13_im_re_a1 0 x13_im_a1 x13_re_a1 0 -13287012586.834599
Rp13_im_im_a1 0 x13_im_a1 6.086871916401739e-10
Cx14_re_a1 x14_re_a1 0 1.0
Gx14_re_a1 0 x14_re_a1 p1 0 0.1414213562373095
Fx14_re_a1 0 x14_re_a1 V1 7.0710678118654755
Rp14_re_re_a1 0 x14_re_a1 2.538942035996494e-07
Gp14_re_im_a1 0 x14_re_a1 x14_im_a1 0 12508213010.337301
Cx14_im_a1 x14_im_a1 0 1.0
Gp14_im_re_a1 0 x14_im_a1 x14_re_a1 0 -12508213010.337301
Rp14_im_im_a1 0 x14_im_a1 2.538942035996494e-07
Cx15_re_a1 x15_re_a1 0 1.0
Gx15_re_a1 0 x15_re_a1 p1 0 0.1414213562373095
Fx15_re_a1 0 x15_re_a1 V1 7.0710678118654755
Rp15_re_re_a1 0 x15_re_a1 1.9028213408252082e-10
Gp15_re_im_a1 0 x15_re_a1 x15_im_a1 0 10346718814.393307
Cx15_im_a1 x15_im_a1 0 1.0
Gp15_im_re_a1 0 x15_im_a1 x15_re_a1 0 -10346718814.393307
Rp15_im_im_a1 0 x15_im_a1 1.9028213408252082e-10
Cx16_re_a1 x16_re_a1 0 1.0
Gx16_re_a1 0 x16_re_a1 p1 0 0.1414213562373095
Fx16_re_a1 0 x16_re_a1 V1 7.0710678118654755
Rp16_re_re_a1 0 x16_re_a1 1.0445779698023639e-10
Gp16_re_im_a1 0 x16_re_a1 x16_im_a1 0 1178261904.5603673
Cx16_im_a1 x16_im_a1 0 1.0
Gp16_im_re_a1 0 x16_im_a1 x16_re_a1 0 -1178261904.5603673
Rp16_im_im_a1 0 x16_im_a1 1.0445779698023639e-10
Cx17_re_a1 x17_re_a1 0 1.0
Gx17_re_a1 0 x17_re_a1 p1 0 0.1414213562373095
Fx17_re_a1 0 x17_re_a1 V1 7.0710678118654755
Rp17_re_re_a1 0 x17_re_a1 2.0923083053430738e-10
Gp17_re_im_a1 0 x17_re_a1 x17_im_a1 0 4982864783.353533
Cx17_im_a1 x17_im_a1 0 1.0
Gp17_im_re_a1 0 x17_im_a1 x17_re_a1 0 -4982864783.353533
Rp17_im_im_a1 0 x17_im_a1 2.0923083053430738e-10
Cx18_a1 x18_a1 0 1.0
Gx18_a1 0 x18_a1 p1 0 0.07071067811865475
Fx18_a1 0 x18_a1 V1 3.5355339059327378
Rp18_a1 0 x18_a1 4.700860825224707e-10
Cx19_a1 x19_a1 0 1.0
Gx19_a1 0 x19_a1 p1 0 0.07071067811865475
Fx19_a1 0 x19_a1 V1 3.5355339059327378
Rp19_a1 0 x19_a1 1.0301058092279971e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 2.1714780056113416
Fd2_1 0 s2 V1 108.57390028056709
Gr1_2_1 0 s2 x1_a1 0 -1572006272070203.8
Gr2_2_1 0 s2 x2_a1 0 88266906368096.92
Gr3_2_1 0 s2 x3_a1 0 -80811381341602.45
Gr4_2_1 0 s2 x4_a1 0 28185778680675.945
Gr5_2_1 0 s2 x5_a1 0 -24096625342174.547
Gr6_2_1 0 s2 x6_a1 0 5405462359367.534
Gr7_2_1 0 s2 x7_a1 0 -3822702380797.725
Gr8_2_1 0 s2 x8_a1 0 480594262580.63763
Gr9_2_1 0 s2 x9_a1 0 -76789791355.72955
Gr10_2_1 0 s2 x10_a1 0 -205735689762.2292
Gr11_re_2_1 0 s2 x11_re_a1 0 -60607094919.45282
Gr11_im_2_1 0 s2 x11_im_a1 0 -52907546889.175095
Gr12_re_2_1 0 s2 x12_re_a1 0 -8025257314.992374
Gr12_im_2_1 0 s2 x12_im_a1 0 -8171293114.678682
Gr13_re_2_1 0 s2 x13_re_a1 0 4712959903.684608
Gr13_im_2_1 0 s2 x13_im_a1 0 11794039363.04446
Gr14_re_2_1 0 s2 x14_re_a1 0 -2644887.1326532885
Gr14_im_2_1 0 s2 x14_im_a1 0 -11422719.2593085
Gr15_re_2_1 0 s2 x15_re_a1 0 -13607595919.826805
Gr15_im_2_1 0 s2 x15_im_a1 0 49004974770.52588
Gr16_re_2_1 0 s2 x16_re_a1 0 171261482551.866
Gr16_im_2_1 0 s2 x16_im_a1 0 745548838669.71
Gr17_re_2_1 0 s2 x17_re_a1 0 -23367947758.5442
Gr17_im_2_1 0 s2 x17_im_a1 0 -1616706192.125098
Gr18_2_1 0 s2 x18_a1 0 1927780995.473537
Gr19_2_1 0 s2 x19_a1 0 -210418701.18167886
Gd2_2 0 s2 p2 0 0.05004913013167886
Fd2_2 0 s2 V2 2.5024565065839433
Gr1_2_2 0 s2 x1_a2 0 -34951060614037.547
Gr2_2_2 0 s2 x2_a2 0 1846511529118.6099
Gr3_2_2 0 s2 x3_a2 0 -1677196746672.324
Gr4_2_2 0 s2 x4_a2 0 521363697157.0707
Gr5_2_2 0 s2 x5_a2 0 -431793871002.98975
Gr6_2_2 0 s2 x6_a2 0 63444196346.74172
Gr7_2_2 0 s2 x7_a2 0 -33388374794.106186
Gr8_2_2 0 s2 x8_a2 0 -10599936609.724571
Gr9_2_2 0 s2 x9_a2 0 13416352163.810543
Gr10_2_2 0 s2 x10_a2 0 -8383500376.777266
Gr11_re_2_2 0 s2 x11_re_a2 0 -1583632173.1313689
Gr11_im_2_2 0 s2 x11_im_a2 0 325482992.36799836
Gr12_re_2_2 0 s2 x12_re_a2 0 -213258373.81603006
Gr12_im_2_2 0 s2 x12_im_a2 0 176602082.16408616
Gr13_re_2_2 0 s2 x13_re_a2 0 280961976.46262926
Gr13_im_2_2 0 s2 x13_im_a2 0 -104274815.97820294
Gr14_re_2_2 0 s2 x14_re_a2 0 -270614.2770205155
Gr14_im_2_2 0 s2 x14_im_a2 0 137477.59478949886
Gr15_re_2_2 0 s2 x15_re_a2 0 491529819.00700134
Gr15_im_2_2 0 s2 x15_im_a2 0 796841964.0859262
Gr16_re_2_2 0 s2 x16_re_a2 0 2798454665.3955054
Gr16_im_2_2 0 s2 x16_im_a2 0 8469818837.711911
Gr17_re_2_2 0 s2 x17_re_a2 0 220758815.11588123
Gr17_im_2_2 0 s2 x17_im_a2 0 61410202.14415588
Gr18_2_2 0 s2 x18_a2 0 -22920034.59926327
Gr19_2_2 0 s2 x19_a2 0 2407280.040605992
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.1483165803772514e-14
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 4.557128896218035e-13
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 5.290028794480444e-13
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 1.431181578596774e-12
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 1.6633298406477113e-12
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 3.84290800946998e-12
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 4.772029383514487e-12
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 9.972170528675195e-12
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 1.3979375802858421e-11
Cx10_a2 x10_a2 0 1.0
Gx10_a2 0 x10_a2 p2 0 0.07071067811865475
Fx10_a2 0 x10_a2 V2 3.5355339059327378
Rp10_a2 0 x10_a2 3.016349128406546e-11
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 1.3199683267104005e-10
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 12947495529.597708
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -12947495529.597708
Rp11_im_im_a2 0 x11_im_a2 1.3199683267104005e-10
Cx12_re_a2 x12_re_a2 0 1.0
Gx12_re_a2 0 x12_re_a2 p2 0 0.1414213562373095
Fx12_re_a2 0 x12_re_a2 V2 7.0710678118654755
Rp12_re_re_a2 0 x12_re_a2 6.600543039354125e-10
Gp12_re_im_a2 0 x12_re_a2 x12_im_a2 0 13673901039.971972
Cx12_im_a2 x12_im_a2 0 1.0
Gp12_im_re_a2 0 x12_im_a2 x12_re_a2 0 -13673901039.971972
Rp12_im_im_a2 0 x12_im_a2 6.600543039354125e-10
Cx13_re_a2 x13_re_a2 0 1.0
Gx13_re_a2 0 x13_re_a2 p2 0 0.1414213562373095
Fx13_re_a2 0 x13_re_a2 V2 7.0710678118654755
Rp13_re_re_a2 0 x13_re_a2 6.086871916401739e-10
Gp13_re_im_a2 0 x13_re_a2 x13_im_a2 0 13287012586.834599
Cx13_im_a2 x13_im_a2 0 1.0
Gp13_im_re_a2 0 x13_im_a2 x13_re_a2 0 -13287012586.834599
Rp13_im_im_a2 0 x13_im_a2 6.086871916401739e-10
Cx14_re_a2 x14_re_a2 0 1.0
Gx14_re_a2 0 x14_re_a2 p2 0 0.1414213562373095
Fx14_re_a2 0 x14_re_a2 V2 7.0710678118654755
Rp14_re_re_a2 0 x14_re_a2 2.538942035996494e-07
Gp14_re_im_a2 0 x14_re_a2 x14_im_a2 0 12508213010.337301
Cx14_im_a2 x14_im_a2 0 1.0
Gp14_im_re_a2 0 x14_im_a2 x14_re_a2 0 -12508213010.337301
Rp14_im_im_a2 0 x14_im_a2 2.538942035996494e-07
Cx15_re_a2 x15_re_a2 0 1.0
Gx15_re_a2 0 x15_re_a2 p2 0 0.1414213562373095
Fx15_re_a2 0 x15_re_a2 V2 7.0710678118654755
Rp15_re_re_a2 0 x15_re_a2 1.9028213408252082e-10
Gp15_re_im_a2 0 x15_re_a2 x15_im_a2 0 10346718814.393307
Cx15_im_a2 x15_im_a2 0 1.0
Gp15_im_re_a2 0 x15_im_a2 x15_re_a2 0 -10346718814.393307
Rp15_im_im_a2 0 x15_im_a2 1.9028213408252082e-10
Cx16_re_a2 x16_re_a2 0 1.0
Gx16_re_a2 0 x16_re_a2 p2 0 0.1414213562373095
Fx16_re_a2 0 x16_re_a2 V2 7.0710678118654755
Rp16_re_re_a2 0 x16_re_a2 1.0445779698023639e-10
Gp16_re_im_a2 0 x16_re_a2 x16_im_a2 0 1178261904.5603673
Cx16_im_a2 x16_im_a2 0 1.0
Gp16_im_re_a2 0 x16_im_a2 x16_re_a2 0 -1178261904.5603673
Rp16_im_im_a2 0 x16_im_a2 1.0445779698023639e-10
Cx17_re_a2 x17_re_a2 0 1.0
Gx17_re_a2 0 x17_re_a2 p2 0 0.1414213562373095
Fx17_re_a2 0 x17_re_a2 V2 7.0710678118654755
Rp17_re_re_a2 0 x17_re_a2 2.0923083053430738e-10
Gp17_re_im_a2 0 x17_re_a2 x17_im_a2 0 4982864783.353533
Cx17_im_a2 x17_im_a2 0 1.0
Gp17_im_re_a2 0 x17_im_a2 x17_re_a2 0 -4982864783.353533
Rp17_im_im_a2 0 x17_im_a2 2.0923083053430738e-10
Cx18_a2 x18_a2 0 1.0
Gx18_a2 0 x18_a2 p2 0 0.07071067811865475
Fx18_a2 0 x18_a2 V2 3.5355339059327378
Rp18_a2 0 x18_a2 4.700860825224707e-10
Cx19_a2 x19_a2 0 1.0
Gx19_a2 0 x19_a2 p2 0 0.07071067811865475
Fx19_a2 0 x19_a2 V2 3.5355339059327378
Rp19_a2 0 x19_a2 1.0301058092279971e-09
.ENDS s_equivalent
